US06124354
2-(Diisopropylamino)ethyl 1-phenylcyclohexanecarboxylate Hydrochloride
1-Phenyl-cyclohexanecarboxylic acid (1 g, 4.9 mmol) was refluxed with SOCl2 (15 mL). After 0.5 h, the reaction mixture was evaporated and the residue was dissolved in toluene. 2-Diisopropylaminoethanol (1.4 g, 9.8 mmol) was added and the mixture was stirred at 80° C. for 14 h. The reaction mixture was filtered and chromatographed on silica gel using toluene-Et3N 95:5 as eluent. The yield was 1.5 g (84%); mp 119-122° C.; 1H NMR (D2O) δ 1.38 (d, 12H), 1.40 (m, 1H), 1.54 (m, 2H), 1.63-1.76 (m, 3H), 1.95 (t, 2H), 2.45 (d, 2H), 3.44 (t, 2H), 3.67 (m, 2H), 4.44 (t, 2H), 7.43 (t, 1H), 7.51 (t, 2H), 7.54 (d, 2H). Anal. (C21H33NO2.HCl) C, H, N.

reactant | 1-Phenyl-cyclohexanecarboxylic acid | 4.9 mmol, 1 g | C1(=CC=CC=C1)C1(CCCCC1)C(=O)O | C13H16O2
reactant | SOCl2 | 15 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-Diisopropylaminoethanol | 9.8 mmol, 1.4 g | C(C)(C)N(CCO)C(C)C | C8H19NO
product | 2-(Diisopropylamino)ethyl 1-phenylcyclohexanecarboxylate Hydrochloride | Cl.C1(=CC=CC=C1)C1(CCCCC1)C(=O)OCCN(C(C)C)C(C)C | InChI=1S/C21H33NO2.ClH/c1-17(2)22(18(3)4)15-16-24-20(23)21(13-9-6-10-14-21)19-11-7-5-8-12-19;/h5,7-8,11-12,17-18H,6,9-10,13-16H2,1-4H3;1H
